US04727073
A suspension of 6-methyl-4-(3-nitrophenyl)-5-phthalimidomethyl-2-phenylpyrimidine (6.9 g) and hydrazine monohydrate (0.8 g) in ethanol (140 ml) was refluxed for 6 hours. After filtering off the insolubles, the filtrate was poured into a suspension of chloroform (200 ml) and water (300 ml) under stirring. The organic layer was separated, washed with aqueous sodium chloride and dried over magnesium sulfate. The solvent was evaporated in vacuo and the resulting crystals were recrystallized from ethanol to give 5-aminomethyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine (1.12 g).

reactant | 6-methyl-4-(3-nitrophenyl)-5-phthalimidomethyl-2-phenylpyrimidine | 6.9 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])CN1C(C=2C(C1=O)=CC=CC2)=O | C26H18N4O4
reactant | hydrazine monohydrate | 0.8 g | O.NN
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 5-aminomethyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine | 1.12 g | NCC=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C18H16N4O2
